US05916898
Using an analogous procedure to that described in Example 2 in the section relating to the preparation of starting materials 4-fluoro-2-nitroaniline and diethyl ethoxymethylenemalonate were reacted, and then refluxed in diphenyl ether to give 3-ethoxycarbonyl-6-fluoro-8-nitro-4-oxo-3,4-dihydroquinoline in 45% yield, mp 278-280° C.

reactant | 4-fluoro-2-nitroaniline | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-ethoxycarbonyl-6-fluoro-8-nitro-4-oxo-3,4-dihydroquinoline | 45% yield | C(C)OC(=O)C1C=NC2=C(C=C(C=C2C1=O)F)[N+](=O)[O-] | C12H9FN2O5
